USRE028865
One method of preparation involves the reaction of, for example, 2,4-dichlorobenzhydrol with uracil in glacial acetic acid in the presence of BF3. This yields the 2,4-dihydroxy-5-(2,4-dichlorobenzhydryl)pyrimidine. Treatment with phosphorus oxychloride in excess yields the 2,4-dichloro-5-(2,4-dichlorobenzhydryl)pyrimidine.

reactant | 2,4-dichlorobenzhydrol | ClC1=C(C(C2=CC=CC=C2)O)C=CC(=C1)Cl | C13H10Cl2O
reactant | uracil | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | BF3 | B(F)(F)F | BF3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dihydroxy-5-(2,4-dichlorobenzhydryl)pyrimidine | OC1=NC=C(C(=N1)O)C(C1=C(C=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C17H12Cl2N2O2
